US07514468B2
3-Z-[1-(4-dimethylaminomethyl-anilino)-1-(4-phenylsulphonylaminomethyl-phenyl)-methylene]-6-chloro-2-indolinone
100 mg of 3-Z-[1-(4-dimethylaminomethyl-anilino)-1-(4-aminomethyl-phenyl)-methylene]-6-chloro-2-indolinone (educt 14.0) are dissolved in 5 ml methylene chloride and at 0° C. 5 ml of pyridine and 45 μl of benzenesulphonylchloride are added. The mixture is stirred for 10 minutes at 0° C. and then for 2 hours at ambient temperature. After this time the solvent is eliminated, the residue is suspended in 1N sodium hydroxide solution, suction filtered and washed with a little water. The product is dried at 100° C.

reactant | 3-Z-[1-(4-dimethylaminomethyl-anilino)-1-(4-aminomethyl-phenyl)-methylene]-6-chloro-2-indolinone | 100 mg | CN(C)CC1=CC=C(N\C(\C2=CC=C(C=C2)CN)=C\2/C(NC3=CC(=CC=C23)Cl)=O)C=C1 | C25H25ClN4O
reactant | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
reactant | benzenesulphonylchloride | 45 μl | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
solvent | sodium hydroxide | 1N | [OH-].[Na+]
product | 3-Z-[1-(4-dimethylaminomethyl-anilino)-1-(4-phenylsulphonylaminomethyl-phenyl)-methylene]-6-chloro-2-indolinone | CN(C)CC1=CC=C(N\C(\C2=CC=C(C=C2)CNS(=O)(=O)C2=CC=CC=C2)=C\2/C(NC3=CC(=CC=C23)Cl)=O)C=C1 | C31H29ClN4O3S
